US09303044B2
2-amino-N-(3-bromo-5-(5-oxo-7-(piperazin-1-yl)-5H-[1,3,4]thiadiazolo[3,2-a]pyrimidin-2-yl)phenyl)acetamide
To a suspension of tert-butyl 4-(2-(3-bromo-5-nitrophenyl)-5-oxo-5H-[1,3,4]thiadiazolo[3,2-a]pyrimidin-7-yl)piperazine-1-carboxylate (460 mg, 0.86 mmol) in EtOH (5 ml) and water (1 ml) are added iron powder (239 mg, 4.38 mmol) and NH4Cl (137 mg, 2.57 mmol) and the mixture is heated at 70° C. for 5 h. After cooling to room temperature, EtOAc (30 ml) is added and the mixture is further stirred for 10 min then filtered through a pad of Celite. The combined filtrate is washed with brine and the organic layer is dried over Na2SO4. After the removal of EtOAc in vacuo, the crude residue is purified by Biotage column chromatography (MeOH/DCM: 1/100 to 1/20 gradient) to give the desired product (380 mg, 88%).

reactant | tert-butyl 4-(2-(3-bromo-5-nitrophenyl)-5-oxo-5H-[1,3,4]thiadiazolo[3,2-a]pyrimidin-7-yl)piperazine-1-carboxylate | 0.86 mmol, 460 mg | BrC=1C=C(C=C(C1)[N+](=O)[O-])C1=NN2C(=NC(=CC2=O)N2CCN(CC2)C(=O)OC(C)(C)C)S1 | C20H21BrN6O5S
reactant | NH4Cl | 2.57 mmol, 137 mg | [NH4+].[Cl-]
reactant | EtOAc | 30 ml | CCOC(=O)C | C4H8O2
solvent | EtOH | 5 ml | CCO | C2H6O
solvent | water | 1 ml | O | H2O
catalyst | iron | 4.38 mmol, 239 mg | [Fe] | Fe
product | 2-amino-N-(3-bromo-5-(5-oxo-7-(piperazin-1-yl)-5H-[1,3,4]thiadiazolo[3,2-a]pyrimidin-2-yl)phenyl)acetamide | 380 mg, 88% | NCC(=O)NC1=CC(=CC(=C1)C1=NN2C(=NC(=CC2=O)N2CCNCC2)S1)Br | C17H18BrN7O2S
